US09126962B2
A mixture of 1-(4-(methylcarbamoyl)-3-fluorophenylamino)cyclopropanecarboxylic acid (200 mg, 0.79 mmol) and 2-(trifluoromethyl)-4-isothiocyanatobenzonitrile (270 mg, 1.18 mmol) was heated at 140° C. for 3 h. The crude product was purified by silica gel chromatography (100-200 mesh silica, 5% acetone in DCM as eluant) to get 40 mg of 4-(1-(4-cyano-3-(trifluoromethyl)phenylcarbamoyl)cyclopropylamino)-2-fluoro-N-methylbenzamide, M+1: 421.

reactant | 1-(4-(methylcarbamoyl)-3-fluorophenylamino)cyclopropanecarboxylic acid | 0.79 mmol, 200 mg | CNC(=O)C1=C(C=C(C=C1)NC1(CC1)C(=O)O)F | C12H13FN2O3
reactant | 2-(trifluoromethyl)-4-isothiocyanatobenzonitrile | 1.18 mmol, 270 mg | FC(C1=C(C#N)C=CC(=C1)N=C=S)(F)F | C9H3F3N2S
product | 4-(1-(4-cyano-3-(trifluoromethyl)phenylcarbamoyl)cyclopropylamino)-2-fluoro-N-methylbenzamide | 40 mg | C(#N)C1=C(C=C(C=C1)NC(=O)C1(CC1)NC1=CC(=C(C(=O)NC)C=C1)F)C(F)(F)F | C20H16F4N4O2
